US07163937B2
A mixture of (S)-3-amino-1-((1S,2R,4R)-4-isopropoxy-2-(isopropylsulfonylmethyl)cyclohexyl)pyrrolidin-2-one (0.04 g, 0.128 mMol), triethylamine (71 uL, 0.512 mMol) and 4-chloro-6-(trifluoromethyl)quinazoline (0.035 g, 0.192 mMol) were taken in EtOH and microwaved at 100° C. for 45 min. The reaction mixture was concentrated and chromatographed to yield (S)-1-((1S,2R,4R)-4-isopropoxy-2-(isopropylsulfonyl methyl)cyclohexyl)-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-2-one as a white solid (0.04 g). MS found: (M+H)+=557.2

reactant | (S)-3-amino-1-((1S,2R,4R)-4-isopropoxy-2-(isopropylsulfonylmethyl)cyclohexyl)pyrrolidin-2-one | 0.128 mMol, 0.04 g | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)OC(C)C)CS(=O)(=O)C(C)C)=O | C17H32N2O4S
reactant | triethylamine | 0.512 mMol, 71 uL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-6-(trifluoromethyl)quinazoline | 0.192 mMol, 0.035 g | ClC1=NC=NC2=CC=C(C=C12)C(F)(F)F | C9H4ClF3N2
solvent | EtOH | CCO | C2H6O
product | (S)-1-((1S,2R,4R)-4-isopropoxy-2-(isopropylsulfonyl methyl)cyclohexyl)-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-2-one | 0.04 g | C(C)(C)O[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC1=NC=NC2=CC=C(C=C12)C(F)(F)F)=O)CS(=O)(=O)C(C)C | C26H35F3N4O4S
